* BVM_JSL_READ_WIDTH_TO_QB_SFQ_V1 Phase-A 20ps -- positive stored state, single READ
* Init: S1-style +100U on WL+BL 10-21ps (historical S1 positive init)
* Read: WL+SE +100U 96-105ps (matched STABLE-LOAD read stimulus)
* Load: R_LD=12 ohm (canonical internal R_SL matching)
* dt=0.0125p, tstop=170p (matches accepted evidence closure)
.include ../../jjmit.cir
.include ../../bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

R_LD SL1 0 12

I_WL1 0 WL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 95p 0 96p +100U 116p +100U 117p 0 170p 0)
I_BL1 0 BL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0p 0 95p 0 96p +100U 116p +100U 117p 0 170p 0)

.tran 0.0125p 170p

.print P(B_JM1|XBVM1) V(B_JM1|XBVM1)
.print P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print P(B_JS1|XBVM1) V(B_JS1|XBVM1)
.print P(B_JS2|XBVM1) V(B_JS2|XBVM1)
.print V(N6|XBVM1) V(SL1)
.print I(L_S1|XBVM1) I(L_S2|XBVM1) I(L_S3|XBVM1)
.print I(L_M3|XBVM1) I(L_PSL|XBVM1) I(L_SL|XBVM1)
.print I(I_WL1) I(I_BL1) I(I_SE1)
.end
