* BVM_JSL_READ_WIDTH_TO_QB_SFQ_V1 Phase-B W*=12ps: canonical logical0 + READ, external 12-JJ JSL load
.include ../../jjmit.cir
.include ../../bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

B_LD1  SL1  njsl1  jjmit area=3.2
B_LD2  njsl1 njsl2 jjmit area=3.2
B_LD3  njsl2 njsl3 jjmit area=3.2
B_LD4  njsl3 njsl4 jjmit area=3.2
B_LD5  njsl4 njsl5 jjmit area=3.2
B_LD6  njsl5 njsl6 jjmit area=3.2
B_LD7  njsl6 njsl7 jjmit area=3.2
B_LD8  njsl7 njsl8 jjmit area=3.2
B_LD9  njsl8 njsl9 jjmit area=3.2
B_LD10 njsl9 njsl10 jjmit area=3.2
B_LD11 njsl10 njsl11 jjmit area=3.2
B_LD12 njsl11 0      jjmit area=3.2

I_WL1 0 WL1 pwl(0p 0 10p 0 11p -100U 20p -100U 21p 0 95p 0 96p +100U 108p +100U 109p 0 170p 0)
I_BL1 0 BL1 pwl(0p 0 10p 0 11p -100U 20p -100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0p 0 95p 0 96p 0 105p 0 106p 0 170p 0)

.tran 0.0125p 170p

.print P(B_JM1|XBVM1) V(B_JM1|XBVM1) P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print P(B_JS1|XBVM1) V(B_JS1|XBVM1) P(B_JS2|XBVM1) V(B_JS2|XBVM1)
.print V(N6|XBVM1) V(SL1) V(njsl11)
.print I(L_PSL|XBVM1) I(L_SL|XBVM1) I(B_LD1) I(B_LD12)
.print P(B_LD1) V(B_LD1) I(B_LD1) P(B_LD2) V(B_LD2) I(B_LD2)
.print P(B_LD3) V(B_LD3) I(B_LD3) P(B_LD4) V(B_LD4) I(B_LD4)
.print P(B_LD5) V(B_LD5) I(B_LD5) P(B_LD6) V(B_LD6) I(B_LD6)
.print P(B_LD7) V(B_LD7) I(B_LD7) P(B_LD8) V(B_LD8) I(B_LD8)
.print P(B_LD9) V(B_LD9) I(B_LD9) P(B_LD10) V(B_LD10) I(B_LD10)
.print P(B_LD11) V(B_LD11) I(B_LD11) P(B_LD12) V(B_LD12) I(B_LD12)
.print I(I_WL1) I(I_BL1) I(I_SE1)
.end
