* MERGE — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b q
* Junctions: 7 total
*   B1: area=2.5, IC=250uA
*   B2: area=3.01, IC=301uA
*   B3: area=1.18, IC=118uA
*   B4: area=2.5, IC=250uA
*   B5: area=3.01, IC=301uA
*   B6: area=1.18, IC=118uA
*   B7: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/MERGE.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_MERGE a b q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7’
.param B1=2.5
.param B2=3.01
.param B3=1.18
.param B4=2.5
.param B5=3.01
.param B6=1.18
.param B7=2.5
.param IB1=175u
.param IB2=175u
.param IB3=183u
.param IB4=175u
.param L1=2.0465p
.param L2=2.4953p
.param L3=0.9488p
.param L4=2.0465p
.param L5=2.4953p
.param L6=0.9488p
.param L7=3.6821p
.param L8=1.3761p
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP7=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 4 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 11 13 jjmit area=B6
B7 15 16 jjmit area=B7
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 17 pwl(0 0 5p IB4)
LB1 3 1 LB1
LB2 10 8 LB2
LB3 14 7 LB3
LB4 17 15 LB4
L1 a 1 2.048E-012
L2 1 4 2.485E-012
L3 6 7 9.486E-013
L4 b 8 2.059E-012
L5 8 11 2.473E-012
L6 7 13 9.53E-013
L7 7 15 3.697E-012
L8 15 q 1.377E-012
LP1 2 0 4.88E-013
LP2 5 0 3.854E-013
LP4 9 0 4.857E-013
LP5 12 0 3.834E-013
LP7 16 0 3.61E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 4 106 RB3
LRB3 106 6 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 11 113 RB6
LRB6 113 13 LRB6
RB7 15 115 RB7
LRB7 115 0 LRB7
.ends
